US05616717
To 465 g (4.3 moles) of 2-(aminomethyl) pyridine was added with stirring 456 g (4.3 moles) of benzaldehyde. The temperature was increased to 70°-80° C. The mixture was diluted with 2 L of MTBE and the water was removed by stirring the solution with 200 g of sodium sulfate overnight. The mixture was filtered and washed with 2 L of MTBE. To remove the remaining water, 100 g of molecular sieves were added. To the mixture was added 483 g (4.3 moles) potassium t-butoxide in portions followed by 842 g (4.38 moles) of cyclohexylmethyl methanesulfonate. After 10-20 hours, the mixture was hydrolyzed by the addition of 5 L water containing 720 mL of hydrochloric acid. The organic phase was separated and discarded. The aqueous phase was washed with 0.5 L of methylene chloride and basified with 0.5 L of ammonium hydroxide. The product was extracted with petroleum ether to yield 452 g of crude mine. The amine was purified by vacuum distillation at 88° C. and 0.5 Torr to give 353 g (35%) of 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine.

reactant | 2-(aminomethyl) pyridine | 4.3 moles, 465 g | NCC1=NC=CC=C1 | C6H8N2
reactant | benzaldehyde | 4.3 moles, 456 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium t-butoxide | 4.3 moles, 483 g | CC(C)([O-])C.[K+]
reactant | cyclohexylmethyl methanesulfonate | 4.38 moles, 842 g | CS(=O)(=O)OCC1CCCCC1 | C8H16O3S
reactant | hydrochloric acid | Cl | ClH
solvent | MTBE | 2 L | CC(C)(C)OC | C5H12O
solvent | water | 5 L | O | H2O
product | 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine | 353 g, 35% | N1=C(C=CC=C1)C(CC1CCCCC1)N | C13H20N2
